US09085555B2
(2S,4R)-1-{2-[3-Acetyl-5-(pyrimidin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared according to procedure described for the preparation of Example 589 (2S,4R)-1-{2-[3-acetyl-5-(pyridin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide from (2S,4R)-1-[2-(3-acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide Example 579 (23.0 mg, 0.047 mmol), cesium carbonate (61 mg, 0.188 mmol) and 2-(chloromethyl)pyrimidine (0.012 mg, 0.070 mmol) in DMSO (2 mL). White solid. MS (LC/MS): 582/583 [M+H]+; tR (HPLC conditions k): 3.19 min.

reactant | (2S,4R)-1-{2-[3-acetyl-5-(pyridin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)OCC2=NC=CC=C2)C(C)=O)=O)C=CC1)F | C30H27ClF2N4O4
reactant | (2S,4R)-1-[2-(3-acetyl-5-hydroxy-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)O)C(C)=O)=O)C=CC1)F | C24H22ClF2N3O4
reactant | cesium carbonate | 0.188 mmol, 61 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(chloromethyl)pyrimidine | 0.070 mmol, 0.012 mg | ClCC1=NC=CC=N1 | C5H5ClN2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (2S,4R)-1-{2-[3-Acetyl-5-(pyrimidin-2-ylmethoxy)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC(=CC=C23)OCC2=NC=CC=N2)C(C)=O)=O)C=CC1)F | C29H26ClF2N5O4
